US04113968
0.4 Part of metallic sodium was dissolved in 20 parts of anhydrous ethanol, and 2.7 parts of ethyl 3,3-dimethyl-4,6,6-trichloro-5-hexenoate was added to the solution. The mixture was agitated for 2 hours under reflux of ethanol. The liquid reaction mixture was diluted with about 50 parts of diethyl ether and neutralized with dried hydrogen chloride gas. The precipitated crystal of sodium chloride was removed by filtration and low-boiling-point substances were removed from the filtrate by distillation. The residue was then subjected to distillation under reduced pressure to obtain 2.1 parts of ethyl 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropane-carboxylate having a boiling point of 72° - 73° C. under 0.3 mm Hg. The yield was 87%. The properties of the product were in agreement with those of ethyl 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropane-carboxylate described in Example 1.

reactant | sodium | [Na] | Na
reactant | ethyl 3,3-dimethyl-4,6,6-trichloro-5-hexenoate | CC(CC(=O)OCC)(C(C=C(Cl)Cl)Cl)C | C10H15Cl3O2
solvent | ethanol | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hydrogen chloride | Cl | ClH
product | ethyl 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropane-carboxylate | yield was 87% | CC1(C(C1C=C(Cl)Cl)C(=O)OCC)C | C10H14Cl2O2
